US05475001
Using an analogous procedure to that described in Example 9, 7-chloro-4-(3',4'-dichloroanilino)-6-nitroquinazoline was reduced with iron in acetic acid to give 6-amino-7-chloro-4-(3',4'-dichloroanilino)quinazoline in 20% yield;

reactant | 7-chloro-4-(3',4'-dichloroanilino)-6-nitroquinazoline | ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)Cl)Cl)[N+](=O)[O-] | C14H7Cl3N4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | 6-amino-7-chloro-4-(3',4'-dichloroanilino)quinazoline | 20% yield | NC=1C=C2C(=NC=NC2=CC1Cl)NC1=CC(=C(C=C1)Cl)Cl | C14H9Cl3N4
